US04187216
2 g (0.00585 mol) of L-alanyl-L-proline anilide hydrobromide were dissolved in 40 ml of dry pyridine and 1.1 ml (0.0117 mol) of acetic anhydride were added. The solution was stirred at room temperature for 1 hour and then evaporated. Final traces of pyridine were removed by addition of 20 ml of toluene ane re-evaporation. The residue was dissolved in 100 ml of chloroform and the solution washed with 80 ml of saturated sodium chloride solution, dried over magnesium sulphate and evaporated to an oil. This oil crystallised from ethyl acetate/petroleum ether to give 1.64 g (93%) of N-acetyl-L-alanyl-L-proline anilide of melting point 163°-165° C.; [α]D20 =-186.2° (c=1.022% in methanol).

reactant | L-alanyl-L-proline anilide hydrobromide | 0.00585 mol, 2 g | Br.N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1
reactant | acetic anhydride | 0.0117 mol, 1.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-acetyl-L-alanyl-L-proline anilide | 1.64 g, 93% | C(C)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1 | C16H21N3O3
